US08461196B2
B. Synthesis of 1-(3,4-dichlorophenyl)-3-ethyl-3-aza-bicyclo[3.1.0]hexane
A stirred solution of 1-(3,4-dichlorophenyl)-3-aza-bicyclo[3.1.0]hexane hydrochloride (19.3 g, 72.9 mmol) in CH2Cl2 (100 mL) was rendered basic with 2N NaOH (100 mL). The resulting mixture was extracted with CH2Cl2 (2×100 mL) and the combined extracts dried, filtered and concentrated under reduced pressure. The residue was dissolved in acetonitrile (200 mL) and bromoethane (15.9 g, 146 mmol) added at room temperature. The mixture was stirred for 4 h during which time a white precipitate formed. After this time the reaction was concentrated under reduced pressure then treated with 2N NaOH (200 mL). Subsequent extraction with CH2Cl2 (3×100 mL) drying the combined extracts (MgSO4), filtration and concentration under reduced pressure afforded a crude residue. This residue was purified by passing through a silica gel plug, eluting with ether, to yield the title compound (12.4 g, 66%) as a clear, viscous oil. This material was then used directly for either chiral separation or hydrochloride salt formation as provided in Example II, Section D hereinbelow.

reactant | 1-(3,4-dichlorophenyl)-3-aza-bicyclo[3.1.0]hexane hydrochloride | 72.9 mmol, 19.3 g | Cl.ClC=1C=C(C=CC1Cl)C12CNCC2C1
reactant | NaOH | 2N, 100 mL | [OH-].[Na+]
reactant | bromoethane | 146 mmol, 15.9 g | BrCC | C2H5Br
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 1-(3,4-dichlorophenyl)-3-ethyl-3-aza-bicyclo[3.1.0]hexane | 12.4 g, 66% | ClC=1C=C(C=CC1Cl)C12CN(CC2C1)CC | C13H15Cl2N
